### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/RootSystem/Finite): Coxeter weights are bounded above by 4

### PR DESCRIPTION
**Pull request by ScottCarnahan**
This PR adds a version of the Cauchy-Schwarz inequality for positive semidefinite bilinear forms on modules over linearly ordered commutative rings, and applies it to restrict Coxeter weights for root systems.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by ocfnash** [comment]
This looks great!

I’m still travelling (with phone-only internet access) so I can’t review until Tuesday, but I’ll prioritise this then if it’s still pending.

File: Mathlib/LinearAlgebra/RootSystem/Finite/Nondegenerate.lean [hunk 1]
```diff
@@ -125,4 +126,65 @@ lemma rootForm_restrict_nondegenerate :
     simp [rootForm_apply_apply, mul_comm]) fun x h => SetLike.coe_eq_coe.mp
     (P.eq_zero_of_mem_rootSpan_of_rootForm_self_eq_zero (Submodule.coe_mem x) (h x))
 
+lemma four_smul_rootForm_mul_rootForm (i j : ι) :
+    4 • P.RootForm (P.root i) (P.root j) * P.RootForm (P.root j) (P.root i) =
+    P.RootForm (P.root i) (P.root i) * P.RootForm (P.root j) (P.root j) * P.coxeterWeight i j := by
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Finite/Nondegenerate.lean:131]: How about:
```suggestion
lemma four_smul_rootForm_sq_eq_coxeterWeight_smul (i j : ι) :
    4 • (P.RootForm (P.root i) (P.root j)) ^ 2 = P.coxeterWeight i j •
      (P.RootForm (P.root i) (P.root i) * P.RootForm (P.root j) (P.root j)) := by
```

**Review by ocfnash — COMMENTED** [review]
Just two quick comments for now; will return this evening.

File: Mathlib/LinearAlgebra/RootSystem/Finite/Nondegenerate.lean [hunk 2]
```diff
@@ -125,4 +126,65 @@ lemma rootForm_restrict_nondegenerate :
...
+    have : (0 : ℤ) ≤ ij * ji := by
+      have hn := P.coxeterWeight_non_neg P.RootForm i j
+      rwa [ht, ← Int.cast_mul, ← Int.cast_zero, Int.cast_le] at hn
+    rw [ht, ← Int.cast_mul]
+    lift (ij * ji) to ℕ with k
+    · exact this
+    · use k
+      norm_cast
+  obtain ⟨n, hcn⟩ := this
+  have h4 := P.coxeterWeight_le_4 i j
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Finite/Nondegenerate.lean:185]: I suggest we first add the following lemma just below the definition of coxeterWeight:
```lean
lemma exists_int_eq_coxeterWeight (h : P.IsCrystallographic) (i j : ι) :
    ∃ z : ℤ, P.coxeterWeight i j = z := by
  obtain ⟨a, ha⟩ := P.isCrystallographic_iff.mp h i j
  obtain ⟨b, hb⟩ := P.isCrystallographic_iff.mp h j i
  exact ⟨a * b, by simp [coxeterWeight, ha, hb]⟩
```
and then use it as in the below (which also contains some other golfing / pruning):
```suggestion
  have hn0 : P.coxeterWeight i j ≠ 0 :=
    fun hc ↦ hO <| (P.coxeterWeight_zero_iff_isOrthogonal P.RootForm i j).mp hc
  have hn4 : P.coxeterWeight i j ≠ 4 := by
    have : Module.IsReflexive R M := P.toPerfectPairing.reflexive_left
    have : NoZeroSMulDivisors ℤ M := NoZeroSMulDivisors.int_of_charZero R M
    intro hc
    exact (P.infinite_of_linearly_independent_coxeterWeight_four i j h hc).not_finite inferInstance
  have h4 : P.coxeterWeight i j ≤ 4 := P.coxeterWeight_le_4 i j
  have : ∃ n : ℕ, P.coxeterWeight i j = n := by
    obtain ⟨z, hz⟩ := P.exists_int_eq_coxeterWeight hP i j
    have hz₀ : 0 ≤ z := by simpa [hz] using P.coxeterWeight_non_neg P.RootForm i j
    obtain ⟨n, rfl⟩ := Int.eq_ofNat_of_zero_le hz₀
    exact ⟨n, by simp [hz]⟩
  obtain ⟨n, hcn⟩ := this
```
Could we also rename `infinite_of_linearly_independent_coxeterWeight_four` to `infinite_of_linearIndependent_coxeterWeight_four` while we're here?

**Review by ocfnash — COMMENTED** [review]
I had a few moments over lunch.

**Comment by ScottCarnahan** [comment]
Thanks for the suggestions! I hadn't noticed that positive-definiteness on the root span was not used.

File: Mathlib/LinearAlgebra/SesquilinearForm.lean [hunk 3]
```diff
@@ -798,4 +798,64 @@ end CommRing
 
 end Nondegenerate
 
+namespace BilinForm
+
+lemma inner_inner_smul_sub_eq [CommRing R] [AddCommGroup M] [Module R M]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/SesquilinearForm.lean:803]: The `inner` naming (used in the analysis corner of Mathlib) refers to the [Inner](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/InnerProductSpace/Basic.html#Inner) typeclass so we shouldn't use it here.
```suggestion
lemma apply_smul_sub_smul_sub_eq [CommRing R] [AddCommGroup M] [Module R M]
```

File: Mathlib/LinearAlgebra/SesquilinearForm.lean [hunk 4]
```diff
@@ -798,4 +798,64 @@ end CommRing
...
+    (B : LinearMap.BilinForm R M) (x y : M) :
+    B ((B x y) • x - (B x x) • y) ((B x y) • x - (B x x) • y) =
+      (B x x) * ((B x x) * (B y y) - (B x y) * (B y x)) := by
+  simp only [LinearMap.map_sub, LinearMap.map_smul, LinearMap.sub_apply, LinearMap.smul_apply,
+    smul_eq_mul, mul_sub, mul_assoc]
+  rw [mul_comm (B x y) (B x x), mul_left_comm (B x y) (B x x)]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/SesquilinearForm.lean:809]:
```suggestion
  simp only [map_sub, map_smul, sub_apply, smul_apply, smul_eq_mul, mul_sub,
    mul_comm (B x y) (B x x), mul_left_comm (B x y) (B x x)]
```

File: Mathlib/LinearAlgebra/SesquilinearForm.lean [hunk 5]
```diff
@@ -798,4 +798,64 @@ end CommRing
...
+  abel
+
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/SesquilinearForm.lean:811]: From here everything uses the same setup so let's pull out all the `variables`:
```suggestion

variable [LinearOrderedCommRing R] [AddCommGroup M] [Module R M] (B : LinearMap.BilinForm R M)

```
Note also that `Nontrivial R` (included below, possibly not used) follows from `LinearOrderedCommRing R` so we can omit it.

File: Mathlib/LinearAlgebra/SesquilinearForm.lean [hunk 6]
```diff
@@ -798,4 +798,64 @@ end CommRing
...
+  sub_nonneg.mp <| nonneg_of_mul_nonneg_right (zero_le_inner_self_mul B (fun z => hs z) x y) hx
+
+/-- The **Cauchy-Schwarz inequality** for positive definite forms. -/
+lemma inner_mul_inner_le_of_pos [LinearOrderedCommRing R] [AddCommGroup M] [Module R M]
+    (B : LinearMap.BilinForm R M) (hp : ∀ x, x ≠ 0 → 0 < B x x) (x y : M) :
+    (B x y) * (B y x) ≤ (B x x) * (B y y) := by
+  by_cases hx : x = 0; · simp [hx]
+  refine inner_mul_inner_le B (fun z => ?_) (hp x hx) y
+  by_cases hz : z = 0; · simp [hz]
+  exact le_of_lt <| hp z hz
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/SesquilinearForm.lean:831]: I think these can be unified as follows:
```suggestion
/-- The **Cauchy-Schwarz inequality** for positive semidefinite forms. -/
lemma apply_mul_apply_le_of_forall_zero_le (hs : ∀ x, 0 ≤ B x x) (x y : M) :
    (B x y) * (B y x) ≤ (B x x) * (B y y) := by
  have aux (x y : M) : 0 ≤ (B x x) * ((B x x) * (B y y) - (B x y) * (B y x)) := by
    rw [← apply_smul_sub_smul_sub_eq B x y]
    exact hs (B x y • x - B x x • y)
  rcases lt_or_le 0 (B x x) with hx | hx
  · exact sub_nonneg.mp <| nonneg_of_mul_nonneg_right (aux x y) hx
  · replace hx : B x x = 0 := le_antisymm hx (hs x)
    rcases lt_or_le 0 (B y y) with hy | hy
    · rw [mul_comm (B x y), mul_comm (B x x)]
      exact sub_nonneg.mp <| nonneg_of_mul_nonneg_right (aux y x) hy
    · replace hy : B y y = 0 := le_antisymm hy (hs y)
      suffices B x y = - B y x by simpa [this, hx, hy] using mul_self_nonneg (B y x)
      rw [eq_neg_iff_add_eq_zero]
      apply le_antisymm
      · simpa only [hx, hy, map_sub, sub_apply, zero_sub, sub_zero, sub_nonneg,
          le_neg_iff_add_nonpos_left, add_comm (B y x)] using hs (x - y)
      · simpa [hx, hy] using hs (x + y)
```

File: Mathlib/LinearAlgebra/SesquilinearForm.lean [hunk 7]
```diff
@@ -798,4 +798,64 @@ end CommRing
...
+
+/-- The equality case of **Cauchy-Schwarz**. -/
+lemma not_LinearIndependent_of_inner_mul_eq [LinearOrderedCommRing R] [Nontrivial R]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/SesquilinearForm.lean:834]:
```suggestion
lemma not_linearIndependent_of_apply_mul_apply_eq
```

File: Mathlib/LinearAlgebra/SesquilinearForm.lean [hunk 8]
```diff
@@ -798,4 +798,64 @@ end CommRing
...
+    exact (ne_of_lt (hp ((B x) y • x - (B x) x • y) hc)).symm <|
+      (inner_inner_smul_sub_eq B x y).symm ▸ (mul_eq_zero_of_right ((B x) x)
+      (sub_eq_zero_of_eq he.symm))
+  by_contra hL
+  by_cases hx : x = 0
+  · simpa [hx] using LinearIndependent.ne_zero 0 hL
+  · have h := sub_eq_zero.mpr (sub_eq_zero.mp hz).symm
+    rw [sub_eq_add_neg, ← neg_smul, add_comm] at h
+    exact (Ne.symm (ne_of_lt (hp x hx))) (LinearIndependent.eq_zero_of_pair hL h).2
+
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/SesquilinearForm.lean:849]: Optionally (though feel free to omit) I think it would be nice to add:
```lean
lemma apply_mul_apply_lt_iff_linearIndependent [NoZeroSMulDivisors R M]
    (hp : ∀ x, x ≠ 0 → 0 < B x x) (x y : M) :
    (B x y) * (B y x) < (B x x) * (B y y) ↔ LinearIndependent R ![x, y] := by
  sorry -- `LinearIndependent.pair_iff` should be helpful
```
(note that `Domain R` follows from `LinearOrderedCommRing R`)

File: Mathlib/LinearAlgebra/SesquilinearForm.lean [hunk 9]
```diff
@@ -798,4 +798,64 @@ end CommRing
...
+/-- Strict **Cauchy-Schwarz** in the linearly independent case. -/
+lemma inner_mul_lt_inner_self [LinearOrderedCommRing R] [Nontrivial R] [AddCommGroup M] [Module R M]
+    (B : LinearMap.BilinForm R M) (hp : ∀ x, x ≠ 0 → 0 < B x x) {x y : M}
+    (hxy : LinearIndependent R ![x, y]) :
+    (B x y) * (B y x) < (B x x) * (B y y) := by
+  refine lt_of_le_of_ne (inner_mul_inner_le_of_pos B hp x y) ?_
+  by_contra h
+  apply (not_LinearIndependent_of_inner_mul_eq B hp x y h) hxy
+
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/SesquilinearForm.lean:858]: Since symmetric bilinear forms are so much more common, I think it would be worth adding specialisations of some of the above which also consume the hypothesis `B.IsSymm` and make statements about `(B x y) ^ 2` instead of `B x y * B y x`.

File: Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.lean [hunk 10]
```diff
@@ -168,6 +194,51 @@ lemma rootForm_root_self_pos (j : ι) :
...
+      (rootForm_root_self_pos P j))).mpr h
+  have h2 : (P.RootForm (P.root i)) (P.root i) * (P.RootForm (P.root j)) (P.root j) <
+      (P.RootForm (P.root i)) (P.root j) * (P.RootForm (P.root j)) (P.root i) := by
+    rw [nsmul_eq_mul, mul_comm, sq] at h1
+    rw [show (P.RootForm (P.root j)) (P.root i) = (P.RootForm (P.root i)) (P.root j) by
+        apply rootForm_symmetric]
+    exact (mul_lt_mul_left (by simp)).mp h1
+  have h3 := LinearMap.BilinForm.inner_mul_inner_le P.RootForm P.rootForm_self_non_neg
+    (rootForm_root_self_pos P i) (P.root j)
+  linarith
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.lean:214]: Partial golf:
```suggestion
  set li := P.RootForm (P.root i) (P.root i)
  set lj := P.RootForm (P.root j) (P.root j)
  set lij := P.RootForm (P.root i) (P.root j)
  have hi := P.rootForm_root_self_pos i
  have hj := P.rootForm_root_self_pos j
  have cs : 4 * lij ^ 2 ≤ 4 * (li * lj) := by
    rw [mul_le_mul_left four_pos]
    -- This should become a one-liner (or almost) with the right version of Cauchy-Schwarz
    have := LinearMap.BilinForm.inner_mul_inner_le P.RootForm P.rootForm_self_non_neg hi (P.root j)
    rw [sq]
    rwa [show P.RootForm (P.root j) (P.root i) = P.RootForm (P.root i) (P.root j) by
      apply rootForm_symmetric] at this
  have key : 4 • lij ^ 2 = _ • (li * lj) := P.four_smul_rootForm_sq_eq_coxeterWeight_smul i j
  simp only [nsmul_eq_mul, smul_eq_mul, Nat.cast_ofNat] at key
  rwa [key, mul_le_mul_right (by positivity)] at cs
```

**Review by ocfnash — COMMENTED** [review]
Another round of mostly nitpicks!

File: Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.lean [hunk 11]
```diff
@@ -229,6 +255,47 @@ lemma rootForm_root_self_pos (j : ι) :
...
+  have h4 : P.coxeterWeight i j ≤ 4 := P.coxeterWeight_le_four i j
+  have : ∃ n : ℕ, P.coxeterWeight i j = n := by
+    obtain ⟨z, hz⟩ := P.exists_int_eq_coxeterWeight hP i j
+    have hz₀ : 0 ≤ z := by simpa [hz] using P.coxeterWeight_non_neg P.RootForm i j
+    obtain ⟨n, rfl⟩ := Int.eq_ofNat_of_zero_le hz₀
+    exact ⟨n, by simp [hz]⟩
+  obtain ⟨n, hcn⟩ := this
+  simp only [hcn] at *
+  norm_cast at *
+  omega
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.lean:297]: I think it is worth first proving:
```lean
lemma coxeterWeight_mem_set_of_isCrystallographic (i j : ι) (hP : P.IsCrystallographic) :
    P.coxeterWeight i j ∈ ({0, 1, 2, 3, 4} : Set R) := by
  obtain ⟨n, hcn⟩ : ∃ n : ℕ, P.coxeterWeight i j = n := by
    obtain ⟨z, hz⟩ := P.exists_int_eq_coxeterWeight hP i j
    have hz₀ : 0 ≤ z := by simpa [hz] using P.coxeterWeight_non_neg P.RootForm i j
    obtain ⟨n, rfl⟩ := Int.eq_ofNat_of_zero_le hz₀
    exact ⟨n, by simp [hz]⟩
  have : P.coxeterWeight i j ≤ 4 := P.coxeterWeight_le_four i j
  simp only [hcn, mem_insert_iff, mem_singleton_iff] at this ⊢
  norm_cast at this ⊢
  omega
```
and also adding the following convenience lemma in `RootSystem.Basic` just below the line which reads `variable [Finite ι] (P : RootPairing ι R M N) (i j : ι)`:
```lean
lemma coxeterWeight_ne_four_of_linearIndependent [CharZero R] [NoZeroSMulDivisors ℤ M]
    (hl : LinearIndependent R ![P.root i, P.root j]) :
    P.coxeterWeight i j ≠ 4 := by
  intro contra
  have := P.infinite_of_linearIndependent_coxeterWeight_four i j hl contra
  exact not_finite ι
```
and then it might not even be necessary to have `coxeterWeight_eq_one_or_two_or_three` but if you think it is worth keeping, it can be proved very quickly from these pieces.

**Review by ocfnash — APPROVED** [review]
One last round of small suggestions. Thanks for going the extra mile with Cauchy-Schwarz!

bors d+

**Comment by ocfnash** [comment]
bors merge
